US08217029B2
64.i) [(S)-1-(3-Fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
According to procedure F and starting from 8-bromo-7-fluoro-2-methoxy-[1,5]naphthyridine and (S)-(−)-3-(tert-butoxycarbonylamino)pyrrolidine the title intermediate was isolated as a yellow oil (304 mg, 48%).

reactant | 8-bromo-7-fluoro-2-methoxy-[1,5]naphthyridine | BrC=1C(=CN=C2C=CC(=NC12)OC)F | C9H6BrFN2O
reactant | (S)-(−)-3-(tert-butoxycarbonylamino)pyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
product | [(S)-1-(3-Fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 304 mg, 48% | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C1=C(C=NC2=CC=C(N=C12)OC)F)=O | C18H23FN4O3
